US04033845
4-[2-(8-Methoxy-4-oxo-4H-1-benzopyran-2-yl)ethenyl]benzonitrile
A mixture of 7.85 g of 4-cyanocinnamaldehyde (U.S. Pat. No. 2,993,834), 11.4 g of 2'-hydroxy-3'-methoxy-2-(methylsulfinyl)acetophenone, 250 ml of toluene, and 0.5 ml of piperidine was refluxed for 3 hrs. The mixture was chilled, and the crystalline ppt. filtered, and recrystallized from toluene, mp. 274°-75°; yield 7 g (46%); λ max mμ (ε) 222 (20,600), 328 (42,500); ν max 745 (m), 845 (m), 1060 (m), 1275 (m), 1570 (m), 1595 (m), 1655 (ms), 2230 (m) cm-1.

reactant | 4-cyanocinnamaldehyde | 7.85 g | C(#N)C1=CC=C(C=CC=O)C=C1 | C10H7NO
reactant | 2'-hydroxy-3'-methoxy-2-(methylsulfinyl)acetophenone | 11.4 g | OC1=C(C=CC=C1OC)C(CS(=O)C)=O | C10H12O4S
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[2-(8-Methoxy-4-oxo-4H-1-benzopyran-2-yl)ethenyl]benzonitrile | COC1=CC=CC=2C(C=C(OC21)C=CC2=CC=C(C#N)C=C2)=O | C19H13NO3
